US07943669B2
Step C: [3-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-phenyl]-methanol
3-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-benzaldehyde (7 g, 22.2 mmol) was dissolved in THF and sodium borohydride (0.92 g; 24.4 mmol) was added. The reaction mixture was stirred at room temperature for 2 h and water was added, and the reaction mixture was partly evaporated to strip off THF. Ethyl acetate was added and the phases separated. The organic phase was washed with water, dried, and evaporated to dryness. Yield: 6.4 g; HPLC-MS: m/z: 317.0 (M+); Rt: 2.37 min.

reactant | 3-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-benzaldehyde | 22.2 mmol, 7 g | BrC=1C=C(C=O)C=C(C1)O[Si](C)(C)C(C)(C)C | C13H19BrO2Si
reactant | sodium borohydride | 24.4 mmol, 0.92 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | [3-Bromo-5-(tert-butyl-dimethyl-silanyloxy)-phenyl]-methanol | BrC=1C=C(C=C(C1)O[Si](C)(C)C(C)(C)C)CO | C13H21BrO2Si
